US07652049B2
A solution of benzyl [2-(4-chlorophenyl)-2-hydroxyethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. (44 mg, 0.07 mmol) in CH2Cl2 (6 mL) was cooled to 0° C. and N,N diisopropylethylamine (63 μL, 0.36 mmol) was added followed by methanesulfonyl chloride (14 μL, 0.18 mmol). The reaction was stirred at 0° C. for 30 minutes and then poured into saturated NaHCO3 (15 mL). The resultant mixture was extracted with EtOAc (50 mL) and the organic layer was washed with brine (15 mL), dried over Na2SO4, filtered through a short plug of silica gel, and concentrated. The residue was redissolved in DMPU (6 mL) and sodium azide (12 mg, 0.18 mmol) was added. The reaction was stirred at room temperature for 24 hours and then poured into H2O (15 mL). The resultant mixture was extracted with EtOAc (50 mL) and the organic layer was washed with H2O (2×15 mL) and brine (15 mL), dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 25% EtOAc/hexanes afforded benzyl[2-azido-2-(4-chlorophenyl)ethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. Rf=0.66 (25% EtOAc/hexanes). LCMS=637.3 (M+1)+. 1H NMR (C6D6, 600 MHz, peaks doubled; rotamers and/or atropisomers present) δ 8.03-6.52 (m, 15H), 5.00-5.08 (m, 2H), 4.76-4.12 (m, 3H), 3.28-2.86 (m, 5H), 2.77 (m, 1H), 1.23-1.18 (m, 6H).

reactant | benzyl [2-(4-chlorophenyl)-2-hydroxyethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | ClC1=CC=C(C=C1)C(CN(C(OCC1=CC=CC=C1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)O | C34H33ClF3NO4
reactant | N,N diisopropylethylamine | 0.36 mmol, 63 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.18 mmol, 14 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
reactant | sodium azide | 0.18 mmol, 12 mg | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 15 mL | O | H2O
product | benzyl[2-azido-2-(4-chlorophenyl)ethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)CC(C1=CC=C(C=C1)Cl)N=[N+]=[N-])=O | C34H32ClF3N4O3
